Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
___: NEUROLOGY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Gait instability
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with a 
history of atrial fibrillation (on warfarin), traumatic brain 
injury ___ fall down stairs, c/b tSAH in ___ followed by Dr. 
___ as an outpatient for multifactorial gait disorder with 
mild cognitive decline with imaging showing hydrocephalus who 
was admitted to the ___ Neurology ___ for worsening gait 
and consideration of neurosurgical intervention or large-volume 
LP.

At baseline, the patient is able to walk with a ___ and has 
intermittent incontinence. However, these have worsened in the 
in the past few days, such that the patient is now dependent on 
her wheelchair for mobility and has worsening urinary retention 
and incontinence. She also has chronic memory problems, with 
decreased recall ___ or ___ words on delayed recall testing). 
Per review of her ___ notes, it seems that her PCP and ___ 
neurologist had been attempting to arrange an inpatient 
admission for a large-volume LP to see if this helped her 
symptoms. 

 
Past Medical History:
atrial fibrillation- on Coumadin
HTN
TBI with tSAH ___ years ago after a fall down the stairs- treated
at ___-imaging from ___ read as small amount of subarachnoid
hemorrhage along anterior anterior hemispheric fissure and right
temporal lobe.
HLD
hypothyroidism
              
 
Social History:
___
Family History:
Her father had ___.  Mother had CAD died at ___ from CHF. 

Father had CAD diabetes and cancer unknown type.  No family
history of strokes or seizures or other dementia or neuro
degenerative disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals: 98.5 °F(36.9 °C)  80 18 141/114MAP: 123.0 98

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MN dry, no lesions noted
in oropharynx, tongue is red and shiny 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: irregular irregular, wwp
Abdomen: soft, NT/ND
Extremities: some edema at ankles bl
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to ___ but says Month
is ___, Year is "___", city is ___. Not able to relate
history in linear fashion, but is pleasant. Cannot tell me any
recent events other than ___ seems to be in the news a 
lot".
I ask her who is the president and she insists its ___.
Inattentive at times. When asked for days of week backward says,
"10, 9, 8, 7, 6..." and then repeats this when asked again.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name only low frequency objects.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. MOCA ___. On trails draws
line from 2 to 3 and then 3 to 4. Draws a square with a line for
it for cube and is able to draw a good contour for clock, but
numbers are poorly spaced and outside the clock, hands are short
and not in the right place. Misses ___ for naming. Encodes 4
words but recalls ___. With multiple choice gets ___ words. 
Digit
span 5 forward and 3 backward, can do letter test for attention.
Gets first 3 of serial 7s then cannot do the rest. Has some
trouble with repetition. Fluency is 4 words. Cannot do even 1
sequence of Luria.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with some
limitation of upgaze, no nystagmus. VFF to confrontation. No
clear disc edema although limited view as she is looking around.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, paratonia in uppers. No pronator drift
bilaterally. No orbiting. No adventitious movements, such as
tremor, noted. No asterixis noted.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA Gastroc 
 L  5    ___   ___  5    5  5     5     
 R  5    ___   ___  5    4* 5     5     
*giveway due to hip pain, knee pain

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense. Diminished proprioception to mod excursions at
large toes bl. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   0
 R  2  2    2    -   0
+pec jerk pl
+palmomental bl, + grasp bl, no glabellar 
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Cannot assess as she feels too unsteady and only sits on
edge of bed before insisting on lying back down

====================================
DISCHARGE PHYSICAL EXAMINATION

Gen: well appearing, lying comfortably in bed
HEENT: atraumatic, normocephalic
CV: WWP
Resp: breathing comfortable
Abd: soft ND
Ext: no edema or deformities

Neuro: 

PERRL 4-->2. EOMI w/ no nystagmus. No facial asymmetry,
voice strong, palate elevates equal. 

Motor: normal bulk and tone, no abnormal movements. 

Coordination: No intention tremor. 

Sensation: not assessed

Reflexes: not assessed

Gait: Able to stand up from chair using support from arms, can
stay up with two assists. Can grasp onto ___ with difficulty 
raising feet off the ground despite verbal prompting. After 
effort able to make ___ steps of small stride and decreased 
steppage

 
Pertinent Results:
___ 10:45PM BLOOD WBC-7.8 RBC-4.57 Hgb-13.2 Hct-40.9 MCV-90 
MCH-28.9 MCHC-32.3 RDW-13.9 RDWSD-45.2 Plt ___
LABS
___ 10:45PM BLOOD Glucose-166* UreaN-7 Creat-0.7 Na-144 
K-4.0 Cl-108 HCO3-20* AnGap-16
___ 09:05AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.8

___ 11:50PM BLOOD ___ PTT-58* ___
___ 09:05AM BLOOD ___ PTT-57.5* ___
___ 05:04AM BLOOD ___
___ 06:25AM BLOOD ___ PTT-39.0* ___

___ 10:45PM BLOOD ALT-17 AST-30 CK(CPK)-83 AlkPhos-90 
TotBili-0.4
___ 10:45PM BLOOD CK-MB-1
___ 10:45PM BLOOD cTropnT-<0.01

___ 09:05AM BLOOD VitB12-602
___ 10:45PM BLOOD %HbA1c-6.1* eAG-128*
___ 10:45PM BLOOD LDLmeas-86
___ 10:45PM BLOOD TSH-4.8*

CSF STUDIES
___ 11:36AM CEREBROSPINAL FLUID (CSF) TNC-2 RBC-3 Polys-0 
___ ___ 11:36AM CEREBROSPINAL FLUID (CSF) TotProt-51* 
Glucose-74

MICROBIOLOGY

   URINE CULTURE (Collected ___ 11:30 pm): 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

RADIOLOGY
CT HEAD - ___ 01:04AM
a. Prominence of ventricles with is out of proportion to sulcal 
volume loss. Imaging characteristics suggestive of NPH. It is 
unclear if this represents an acute finding given lack of 
comparative imaging.
2. Chronic sequelae of probable small vessel ischemic disease.
3. No acute large territory infarction or intracranial 
hemorrhage identified. 
 
Brief Hospital Course:
HOSPITAL COURSE BY SYSTEM

#Neuro. 
Due to symptoms of increased gait instability and incontinence, 
___ was repeated and showed ventricular prominence out of 
proportion to sulcal volume loss suggestive of normal pressure 
hydrocephalus. Due to her history of sub-arachnoid hemorrhage, 
communicating hydrocephalus was also considered, but this was 
felt to be less likely based on the imaging findings. Patient 
was counseled on possibility of pursuing Neurosurgical 
intervention with placement of a VP shunt for her hydrocephalus, 
and that a large-volume LP would likely have only transient 
clinical benefit but would be diagnostically beneficial to see 
if a VP shunt would ultimately be helpful. The patient was 
hesitant about Neurosurgical intervention at this time, and 
endorsed a desire to continue discussing this with her family 
and providers as an outpatient. Large-volume LP was performed on 
___ once INR was <2.0 with removal of 30cc of clear CSF. 
Patient tolerated procedure well. Pt's ambulatory status did not 
appear to improve after this procedure indicating that VPS would 
not be useful in her clinical condition.
- Continue home atorvastatin 40mg PO QPM and carvedilol 12.5mg 
PO BID for cardiovascular prophylaxis 
- Continue home mirtazapine 7.5mg PO QHS 
- Home galantamine held as medication not on formulary. 
Recommend re-starting as outpatient. 
[ ] Please follow-up RPR and Lyme studies 

#Heme. 
INR on admission was elevated at 4.7. Home Coumadin was held in 
preparation for LP. Pt was discharged with a Lovenox bridge and 
advised to return to care on ___ for an INR check. Warfarin 
was re-started on ___ following the patient's LP at 4.5mg. 
- Home warfarin regimen: 6mg on ___ 4.5mg 
on ___
[ ] Please continue therapeutic Lovenox BID until INR check on 
___
[ ] Please continue warfarin (Coumadin) for now at new dose of 
4.5mg daily 
[ ] Please consider re-evaluating home warfarin regimen as 
patient was supratherapeutic with INR of 4.7 on admission

#GI. 
Vitamin B12 within normal limits. 
[ ] Continue vitamin D and B12 supplements 

#GU. 
Patient endorsed worsening incontinence in past few days. 
Admission UA showing evidence of UTI and was started on IV 
ceftriaxone. Completed 3-day course of IV ceftriaxone 1g Q24H. 
Urine culture eventually showed pan-sensitive K pneumoniae. 

#ID. 
Patient treated for UTI per above. Pt afebrile and without 
leukocytosis throughout admission. 

#Cardiopulmonary. 
Anti-coagulation for atrial fibrillation held on admission for 
LP per above. Patient discharged with Lovenox bridge given 
CHADS2-VASC2 score of 6 ("high-risk"). Pt hemodynamically stable 
throughout admission. 
- Continue home carvedilol 

#Endo. 
Slightly elevated TSH (4.8), and elevated HbA1c (6.1) 
[ ] Continue levothyroxine 112mcg daily. Recommend outpatient 
follow-up for mildly elevated TSH
[ ] Appreciate outpatient follow-up for possible elevated blood 
sugars 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 7.5 mg PO QHS 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. melatonin 3 mg oral QHS 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Carvedilol 12.5 mg PO BID
6. Acetaminophen 325 mg PO Q8H:PRN Pain - Mild 
7. Vitamin D 1000 UNIT PO DAILY 
8. Warfarin 6 mg PO 3X/WEEK (___) 
9. galantamine 8 mg oral DAILY 
10. Warfarin 4.5 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Mirtazapine 7.5 mg PO QHS 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. melatonin 3 mg oral QHS 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Carvedilol 12.5mg PO BID
6. Acetaminophen 325 mg PO Q8H:PRN Pain - Mild 
7. Vitamin D 1000 UNIT PO DAILY 
8. *******Warfarin 4.5 mg PO DAILY  
9. galantamine 8 mg oral DAILY 
10. *******Lovenox 1 mg/kg SC TWICE DAILY; please check INR on 
___ and stop when INR is therapeutic (2.0-3.0)
 
Discharge Disposition:
Home With ___
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
# Urinary tract infection
# Normal pressure hydrocephalus

Secondary diagnoses
# Atrial fibrillation (on Coumadin) 
# Hyperlipidemia
# Hypertension
# h/o subarachnoid hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid ___ 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
Neurology ___ because you were having difficulty walking and 
leaking of urine. You were found to have a urinary tract 
infection, for which you were treated with antibiotics. You had 
imaging of your brain that showed build-up of fluid within your 
brain. We discussed possible interventions that could relieve 
this build-up of fluid. We performed a lumbar puncture to 
temporarily relieve this build-up of fluid and assess whether 
removing extra fluid could help with your memory and walking 
difficulties. If this procedure was helpful, Neurosurgery to 
place a permanent shunt to drain the extra fluid from your brain 
(a ventriculoperitoneal shunt) could be considered. To complete 
this procedure safely, we had to temporarily stop your 
blood-thinning medication (warfarin, aka Coumadin). Because it 
will take a few days for your Coumadin levels to appropriately 
thin your blood to protect you from blood clots for your atrial 
fibrillation, we are discharging you with an additional blood 
thinner (called Lovenox) that you should use until your next 
blood draw to check your INR - a measure of how thin your blood 
is. When you were admitted to the hospital, your INR was 
slightly higher than it should be (at 4.7). Please follow up 
with your primary doctor to discuss if an adjustment to your 
warfarin dose might be warranted. 

To ensure a safe and speedy recovery, please do the following:
- Continue taking warfarin (Coumadin) at a dose of 4.5mg EVERY 
DAY. Do NOT take 6mg of warfarin on any days. 
- Please have your blood drawn on ___ to check your 
INR (a measure of how thin your blood is)
- Please continue your Lovenox shots twice per day. If your INR 
is within the appropriate range on ___ (2.0-3.0), you 
can stop taking the Lovenox shots.
- Please follow-up with your primary doctor to discuss your 
___ warfarin dosing
- Please continue your other home medications as previously 
prescribed

Please call your doctor or call ___ if you experience any of the 
following:
- Dizziness
- Lightheadedness
- Falls
- Bleeding in your bowel movements
- Bleeding in your urine
- Pain during urination
- High fevers or chills
- Inability to walk 
- Weakness in your limbs
- Difficulty speaking
- Any other symptom that concerns you

It was a pleasure to participate in your care.

Your ___ Neurology Care Team

 
Followup Instructions:
___